US07098226B2
4-(3-Aminobutyl)pyridine (Intermediate No. 15-1)
Next, anhydrous ether (19 ml) was added to lithium aluminum hydride (257 mg, 6.77 mmol) under a nitrogen atmosphere, and the mixture was stirred under ice-cooling. A solution of 4-(4-pyridyl)-2-butanoneoxime (556 mg, 3.38 mmol) in ether (15 ml) was added dropwise to the mixture over seven minutes, then the temperature was raised to room temperature, and the whole was refluxed overnight. Further, the whole was refluxed for two days and then stirred under ice-cooling. Ethyl acetate was added slowly to the reaction mixture, and then a 1 N aqueous sodium hydroxide solution was added thereto (first slowly, total 20 ml). Chloroform (80 ml) was added thereto, and an insoluble matter was filtered out with Celite. Layers were separated, and the chloroform layer was concentrated under reduced pressure. The residue was combined with the aqueous layer, tetrahydrofuran (20 ml) was added thereto, and the whole was stirred at room temperature. Di-t-butyl carbonate (1.48 g, 6.78 mmol) was added thereto, and the whole was stirred overnight. The whole was extracted with chloroform (50 ml), and the organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography. A 4 N solution of hydrogen chloride in ethyl acetate (3 ml) and ethanol (1 ml) were added to the residue, and the mixture was stirred at room temperature. After three hours, the reaction mixture was concentrated under reduced pressure. Chloroform (5 ml), methanol (5 ml) and triethylamine (1 ml) were added to the residue, and the mixture was concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography to give 161 mg (32%) of the titled compound as a brown oily matter.

reactant | lithium aluminum hydride | 6.77 mmol, 257 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-(4-pyridyl)-2-butanoneoxime | 3.38 mmol, 556 mg | N1=CC=C(C=C1)CCC(C)=NO | C9H12N2O
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | Di-t-butyl carbonate | 6.78 mmol, 1.48 g | C(OC(C)(C)C)(OC(C)(C)C)=O | C9H18O3
solvent | ether | 15 ml | CCOCC | C4H10O
solvent | ether | 19 ml | CCOCC | C4H10O
solvent | Chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(3-Aminobutyl)pyridine | 161 mg, 32% | NC(CCC1=CC=NC=C1)C | C9H14N2
